### PR TITLE
[Merged by Bors] - feat(GroupTheory/Sylow): a tower of subgroup exists

### PR DESCRIPTION
**Pull request by wwylele**
This is a pretty trivial corollary but tedious to write formally, so let's provide it for convenience. My recent application of this is to show that a Galois extension of degree `2 ^ n` consists of a tower of quadratic extensions, and with this I can avoid doing too much induction with field theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Sylow.lean [hunk 1]
```diff
@@ -702,6 +702,33 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the cardinality of `G`, then
+there is a series of subgroups of cardinality `p ^ k` for `k` through `0` to `n`. -/
+theorem exists_subgroup_tower [Finite G] {p n : ℕ} (hp : p.Prime) (h : p ^ n ∣ Nat.card G) :
+    ∃ f : Fin (n + 1) → Subgroup G, (∀ k, Nat.card (f k) = p ^ k.val) ∧
+      ∀ k : Fin n, f k.castSucc ≤ f k.succ := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: I think the most general statement is that any partial chain can be refined to a complete chain. How easy is that to state/prove?

**Comment by wwylele** [comment]
btw I just realized the second part of the statement should be `StrictMono f` so it is easier to use. Going to update it...

File: Mathlib/GroupTheory/Sylow.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: Let me see if I understand what you said correctly. Consider the set `({bot, top} : Set (Subgroup G))`, it is a `IsChain` in terms of subgroup inclusion, so using `IsChain.exists_maxChain` we get a maximal chain. Such chain necessarily contains subgroup of every order p ^ k, because otherwise `Sylow.exists_subgroup_card_pow_prime_le` says there exists another subgroup that can be added to the chain.

I'll see if that makes the proof better

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: :/ the new proof went longer than the original one. While it is easy to explain on paper, there is quite some code to write. Applying what is essentially Zorn's lemma also feels overkill for this finite case. So unless I misunderstood something, I think the induction approach is better

**Comment by wwylele** [comment]
I changed this to bundled OrderEmbedding as that is the "strongest" version a user can get. One can then unbundle it to (Strict)Mono when needed

File: Mathlib/GroupTheory/Sylow.lean [hunk 2]
```diff
@@ -702,6 +702,34 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the cardinality of `G`, then
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the order of the group, then
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 3]
```diff
@@ -702,6 +702,34 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+there is a series of subgroups of cardinality `p ^ k` for `k` through `0` to `n`. -/
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
there is a chain of subgroups of size `p ^ k` for `k` through `0` to `n`. -/
```

File: Mathlib/GroupTheory/Sylow.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: Sorry, I was suggesting adding the maximal chain version to Sylow.lean as a separate declaration, but not necessarily stated in terms of Zorn's lemma chains. Basically, I'm just thinking that in practice, you don't necessarily just want an arbitrary chain. You often want a chain going through specified subgroups.So I'm wondering what the best way to state that is (not necessarily in terms of Zorn's lemma chains!) and how easy it would be to prove.

File: Mathlib/GroupTheory/Sylow.lean (hunk 2 above)
Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: I do like the new wording better and I'll change it, but it is interesting that all neighbor theorems use "cardinality"...

File: Mathlib/GroupTheory/Sylow.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: Oh, I see! What should be the statement look like? I am thinking

```
theorem exists_subgroup_tower' [Finite G] {p n : ℕ} (hp : p.Prime) (h : p ^ n ∣ Nat.card G) 
    (s : Set (Fin (n + 1))) (g : s → Subgroup G) (hg : Monotone g) 
    (hcard : ∀ k, Nat.card (g k) = p ^ k.val.val) :
    ∃ f : Fin (n + 1) ↪o Subgroup G, (∀ k, Nat.card (f k) = p ^ k.val) ∧ 
      (∀ k, g k = f k.val)
```

I don't have a use case for this version, so I don't know which form of the statement is easier to use.

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: Another option would be to take a set satisfying `IsChain` and state that it lies in the image of `f`. That way you could easily plug in a single p-subgroup `{H}`, as opposed to having to construct the map `g` above.

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: @tb65536 I pushed an ~~incomplete~~ sorry-free but messy proof of the generalization. It is very tedious and already went over 100 lines. Should I continue to clean it up, or there are better way to do this?

**Comment by wwylele** [comment]
Removing awaiting author as I'd like to pause for reviewer inputs even though the proof is ~~incomplete~~ messy
-awaiting-author

File: Mathlib/GroupTheory/Sylow.lean [hunk 4]
```diff
@@ -702,6 +714,240 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+
+
+theorem exists_subgroup_tower'' [Finite G] {p n : ℕ} (hp : p.Prime) (hdvd : p ^ n ∣ Nat.card G)
+    {s : Set (Subgroup G)} (hchain : IsChain (· ≤ ·) s) (hpgroup : ∀ g ∈ s, IsPGroup p g)
+    (hcard : ∀ g ∈ s, Nat.card g ≤ p ^ n) {missing : Finset (Fin (n + 1))}
+    (hmissing : ∀ k, (∃ g ∈ s, Nat.card g = p ^ k.val) ↔ k ∉ missing) :
+    ∃ f : Fin (n + 1) ↪o Subgroup G, s ⊆ Set.range f ∧ ∀ k, Nat.card (f k) = p ^ k.val := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: I wonder if it would be easier to prove this by induction on `n` with an auxiliary ambient subgroup containing the chain? (but without `missing`). The idea would be that if `S` contains an element `P` of size `p ^ n`, then remove it and invoke the inductive hypothesis with `P` as the ambient subgroup, and then tack `P` on to the end of `f`. And if `S` contains no element `P` of size `p^n`, then invoke the inductive hypothesis directly and tack on any old subgroup of size `p^n` containing the top element of `f`.

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: Thanks for the suggestion! I have implemented the new proof

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: Rather than generalizing `G`, I suspect working with subgroups might be a little cleaner to avoid subgroups of subgroups. E.g., starting with
```
suffices ∀ (n : ℕ) (H : Subgroup G) (hdvd : p ^ n ∣ Nat.card H) (s : Set (Subgroup G))
      (hchain : IsChain (· ≤ ·) s) (hpgroup : ∀ t ∈ s, IsPGroup p t)
      (hcard : ∀ t ∈ s, Nat.card t ≤ p ^ n) (hle : ∀ t ∈ s, t ≤ H),
      ∃ f : Fin (n + 1) ↪o Subgroup G, s ⊆ Set.range f ∧ ∀ k, Nat.card (f k) = p ^ k.val ∧ f k ≤ H by
    obtain ⟨f, hf⟩ := this n ⊤ (by simpa) s hchain hpgroup hcard (by simp)
    grind
```

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: Also, have you considered working with a sorted list instead of an embedding of `Fin`? The API might be a bit smoother.

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: Applied the suggestion about subgroups. Thanks!

Regarding using list, I can do some (thought) experiment, but it feels weird to see a list appear in math lemma. Currently loogle `List (Subgroup ?_)` returns no result.

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: I was thinking just for the proof of an auxilliary lemma perhaps, and then the fin embedding would be a consequence and the intended use.

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: I just suspect it might simplify the proof.

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: I tried a bit but it went more complicated. For starters, it doesn't seem that there are lemma to quickly conclude `[⊥].SortedLT` for the base case. I also needed to carry around List indexing API (which IMO is great for programming but bad for theorem proving).

File: Mathlib/GroupTheory/Sylow.lean [hunk 5]
```diff
@@ -694,6 +694,18 @@ theorem exists_subgroup_card_pow_prime_le [Finite G] (p : ℕ) :
         ⟨K', by rw [hK'.1, tsub_add_cancel_of_le h0m.nat_succ_le], le_trans hK.2 hK'.2⟩)
       fun hnm : n = m => ⟨H, by simp [hH, hnm]⟩
 
+theorem exists_subgroup_card_pow_prime_le_le {p : ℕ} (hp : p.Prime) {n m : ℕ}
+    {H L : Subgroup G} [Finite L] (hH : Nat.card H = p ^ n) (hL : p ^ m ∣ Nat.card L)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean:698]: Is it worth generalizing this to `Nat.card H ∣ p ^ m`? That feels a bit more natural to me.

File: Mathlib/GroupTheory/Sylow.lean [hunk 6]
```diff
@@ -702,6 +714,85 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. Given a chain of `p`-subgroups, one can complete the
+chain to contain subgroups of size `p ^ k` for all `k` up to `n` such that `p ^ n` divides the order
+of the group. -/
+theorem exists_subgroup_tower_subgroup [Finite G] {p n : ℕ} (hp : p.Prime)
+    (hdvd : p ^ n ∣ Nat.card G) {s : Set (Subgroup G)} (hchain : IsChain (· ≤ ·) s)
+    (hpgroup : ∀ g ∈ s, IsPGroup p g) (hcard : ∀ g ∈ s, Nat.card g ≤ p ^ n) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean:722]: I wonder if this should also be divisibility. In general, divisibility feels like the more natural relation on cardinalities of subgroups.
```suggestion
    (hpgroup : ∀ g ∈ s, IsPGroup p g) (hcard : ∀ g ∈ s, Nat.card g ∣ p ^ n) :
```

Comment (alreadydone) [reply Mathlib/GroupTheory/Sylow.lean:722]: but this change makes the statement less general?

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean:722]: Only syntactically (because the cardinality is already a prime power), but I suspect it will actually make it easier to use in general (since proving divisibility is easier than inequality in these multiplicative contexts).

File: Mathlib/GroupTheory/Sylow.lean (hunk 5 above)
Comment (sharky564) [reply Mathlib/GroupTheory/Sylow.lean:698]: Agreed, it also gets rid of the requirement to have `n` in the signature, and you just need to add 
```
  obtain ⟨n, hnm, hH⟩ := (Nat.dvd_prime_pow hp).mp hH
```

File: Mathlib/GroupTheory/Sylow.lean (hunk 6 above)
Comment (sharky564) [reply Mathlib/GroupTheory/Sylow.lean:722]: Agreed, and it should also simplify some parts of the proof.

File: Mathlib/GroupTheory/Sylow.lean [hunk 7]
```diff
@@ -702,6 +714,85 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. Given a chain of `p`-subgroups, one can complete the
+chain to contain subgroups of size `p ^ k` for all `k` up to `n` such that `p ^ n` divides the order
+of the group. -/
+theorem exists_subgroup_tower_subgroup [Finite G] {p n : ℕ} (hp : p.Prime)
```
Comment (sharky564) [inline Mathlib/GroupTheory/Sylow.lean:720]: This name doesn't feel like a good descriptor to be honest. Maybe something like `exists_subgroup_tower_of_isChain`, but that also feels not quite right? Perhaps namespace it inside IsChain?

File: Mathlib/GroupTheory/Sylow.lean [hunk 8]
```diff
@@ -702,6 +714,85 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. Given a chain of `p`-subgroups, one can complete the
+chain to contain subgroups of size `p ^ k` for all `k` up to `n` such that `p ^ n` divides the order
+of the group. -/
```
Comment (sharky564) [inline Mathlib/GroupTheory/Sylow.lean:719]:
```suggestion
/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the order of `G`, then any chain
of subgroups whose orders divide `p ^ n` can be completed to a tower of subgroups of orders
`p ^ 0, …, p ^ n`. -/
```

File: Mathlib/GroupTheory/Sylow.lean (hunk 7 above)
Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: I think `exists_subgroup_tower_of_isChain` is ok. The entire file is in the Sylow namespace and I want to be consistent with that

File: Mathlib/GroupTheory/Sylow.lean [hunk 9]
```diff
@@ -702,6 +715,83 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the order of `G`, then any chain
+of subgroups whose orders divide `p ^ n` can be completed to a tower of subgroups of orders
+`p ^ 0, …, p ^ n`. -/
+theorem exists_subgroup_tower_of_isChain [Finite G] {p n : ℕ} (hp : p.Prime)
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Sylow.lean]: I think `tower` does not fit the naming convention. How about
```suggestion
theorem exists_orderEmbedding_of_isChain [Finite G] {p n : ℕ} (hp : p.Prime)
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 10]
```diff
@@ -694,6 +694,19 @@ theorem exists_subgroup_card_pow_prime_le [Finite G] (p : ℕ) :
         ⟨K', by rw [hK'.1, tsub_add_cancel_of_le h0m.nat_succ_le], le_trans hK.2 hK'.2⟩)
       fun hnm : n = m => ⟨H, by simp [hH, hnm]⟩
 
+theorem exists_subgroup_card_pow_prime_le_le {p : ℕ} (hp : p.Prime) {n : ℕ}
+    {H L : Subgroup G} [Finite L] (hH : Nat.card H ∣ p ^ n) (hL : p ^ n ∣ Nat.card L)
+    (hHL : H ≤ L) :
+    ∃ K : Subgroup G, Nat.card K = p ^ n ∧ H ≤ K ∧ K ≤ L := by
+  obtain ⟨k, hkn, hH⟩ := (Nat.dvd_prime_pow hp).mp hH
+  have : Fact p.Prime := ⟨hp⟩
+  have hcardeq := Nat.card_congr (Subgroup.subgroupOfEquivOfLe hHL).toEquiv.symm ▸ hH
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
  have hcardeq := (Nat.card_congr (Subgroup.subgroupOfEquivOfLe hHL).toEquiv).trans hH
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 11]
```diff
@@ -694,6 +694,19 @@ theorem exists_subgroup_card_pow_prime_le [Finite G] (p : ℕ) :
...
+  obtain ⟨K, hcard, hHK⟩ := exists_subgroup_card_pow_prime_le p hL (H.subgroupOf L) hcardeq hkn
+  refine ⟨K.map L.subtype, ?_, ?_, map_subtype_le K⟩
+  · rw [Subgroup.card_map_of_injective L.subtype_injective, hcard]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
  · rwa [Subgroup.card_map_of_injective L.subtype_injective]
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 12]
```diff
@@ -702,6 +715,83 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the order of `G`, then any chain
+of subgroups whose orders divide `p ^ n` can be completed to a tower of subgroups of orders
+`p ^ 0, …, p ^ n`. -/
+theorem exists_orderEmbedding_of_isChain [Finite G] {p n : ℕ} (hp : p.Prime)
+    (hdvd : p ^ n ∣ Nat.card G) {s : Set (Subgroup G)} (hchain : IsChain (· ≤ ·) s)
+    (hpgroup : ∀ g ∈ s, IsPGroup p g) (hcard : ∀ g ∈ s, Nat.card g ∣ p ^ n) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: I think `hpgroup` should follow from `hcard`.

File: Mathlib/GroupTheory/Sylow.lean [hunk 13]
```diff
@@ -702,6 +715,83 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+    ∃ f : Fin (n + 1) ↪o Subgroup G, s ⊆ Set.range f ∧ ∀ k, Nat.card (f k) = p ^ k.val := by
+  suffices ∀ (n : ℕ) (H : Subgroup G) (hdvd : p ^ n ∣ Nat.card H) (s : Set (Subgroup G))
+      (hchain : IsChain (· ≤ ·) s) (hpgroup : ∀ t ∈ s, IsPGroup p t)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: Likewise here.

File: Mathlib/GroupTheory/Sylow.lean [hunk 14]
```diff
@@ -702,6 +715,83 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the order of `G`, then any chain
+of subgroups whose orders divide `p ^ n` can be completed to a tower of subgroups of orders
+`p ^ 0, …, p ^ n`. -/
+theorem exists_orderEmbedding_of_isChain [Finite G] {p n : ℕ} (hp : p.Prime)
+    (hdvd : p ^ n ∣ Nat.card G) {s : Set (Subgroup G)} (hchain : IsChain (· ≤ ·) s)
+    (hpgroup : ∀ g ∈ s, IsPGroup p g) (hcard : ∀ g ∈ s, Nat.card g ∣ p ^ n) :
+    ∃ f : Fin (n + 1) ↪o Subgroup G, s ⊆ Set.range f ∧ ∀ k, Nat.card (f k) = p ^ k.val := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Sylow.lean:726]: Would an `LTSeries` fit better here?

File: Mathlib/GroupTheory/Sylow.lean [hunk 15]
```diff
@@ -694,6 +694,19 @@ theorem exists_subgroup_card_pow_prime_le [Finite G] (p : ℕ) :
         ⟨K', by rw [hK'.1, tsub_add_cancel_of_le h0m.nat_succ_le], le_trans hK.2 hK'.2⟩)
       fun hnm : n = m => ⟨H, by simp [hH, hnm]⟩
 
+theorem exists_subgroup_card_pow_prime_le_le {p : ℕ} (hp : p.Prime) {n : ℕ}
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Sylow.lean:699]:
```suggestion
theorem exists_subgroup_card_pow_prime_le_le {p : ℕ} [Fact p.Prime] {n : ℕ}
```
to be consistent

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean:699]: The file is already inconsistent unfortunately. I went with normal parameter as `Fact` seems to be an abuse. `Fact` is used when a definition or an instance needs it

**Comment by SnirBroshi** [comment]
> tedious to write formally

The big theorem is can be generalized to "every chain can be refined into a maximal chain" when considering the lattice of subgroups of a particular p-group (the p-subgroup of order `p ^ n` that is above `sSup s`).
So ideally the proof would be just `let H := exists_subgroup_card_pow_prime_le (m := n) (H := sSup s) ..` + applying the lattice theorem in `Set.Iic H`.

I think such a generalization would make this very nice to write, but it's probably out-of-scope here.
To get the cardinalities conclusion we'd probably need to define graded lattices, and it would probably be best to work with `LTSeries` rather than `IsChain` so we'd first need to define an order on them (#42561).
But eventually this would look pretty cool IMO :)

File: Mathlib/GroupTheory/Sylow.lean (hunk 14 above)
Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean:726]: - If you are referring to `hchain : IsChain (· ≤ ·) s`, it needs to allow empty set, which `LTSeries` doesn't
 - If you are referring to `Fin (n + 1) ↪o Subgroup G`, I was hoping I could compose it with [IsGalois.intermediateFieldEquivSubgroup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Galois/Basic.html#IsGalois.intermediateFieldEquivSubgroup). `OrderEmbedding` provides more API here

Comment (SnirBroshi) [reply Mathlib/GroupTheory/Sylow.lean:726]: I was asking about the embedding; if there's a lack of API then let's make it!

As for the `Set`, does the singleton chain `[⊥]` not function exactly like the empty set?

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean:726]: I think my other question would be what are the benefits of using `LTSeries` over `OrderEmbedding`. If there are significant benefits, adding more API would be worth it.

Comment (SnirBroshi) [reply Mathlib/GroupTheory/Sylow.lean:726]: It's an indexed finite chain of elements, which is what you're returning semantically.
I haven't looked at the proof so I don't know what's more natural to prove.

File: Mathlib/GroupTheory/Sylow.lean [hunk 16]
```diff
@@ -702,6 +715,80 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+    · rw [OrderEmbedding.coe_ofStrictMono, Set.mem_range]
+      by_cases hgt : g = t
+      · exact ⟨Fin.last (n + 1), by simp [f, hgt]⟩
+      have hgf' : g ∈ Set.range f' := by grind
+      obtain ⟨x, hx⟩ := Set.mem_range.mp hgf'
+      exact ⟨x.castSucc, by simp [f, hx]⟩
+    · simp only [OrderEmbedding.coe_ofStrictMono, f]
+      split_ifs with hx
+      · simp [hx, htcard, htH]
+      · simp [(hf' _).1, (hf' _).2.trans htH]
```
Comment (sharky564) [inline Mathlib/GroupTheory/Sylow.lean]: Minor golfing
```suggestion
theorem exists_orderEmbedding_of_isChain [Finite G] {p n : ℕ} (hp : p.Prime)
    (hdvd : p ^ n ∣ Nat.card G) {s : Set (Subgroup G)} (hchain : IsChain (· ≤ ·) s)
    (hcard : ∀ g ∈ s, Nat.card g ∣ p ^ n) :
    ∃ f : Fin (n + 1) ↪o Subgroup G, s ⊆ Set.range f ∧ ∀ k, Nat.card (f k) = p ^ k.val := by
  suffices ∀ (n : ℕ) (H : Subgroup G) (hdvd : p ^ n ∣ Nat.card H) (s : Set (Subgroup G))
      (hchain : IsChain (· ≤ ·) s) (hcard : ∀ t ∈ s, Nat.card t ∣ p ^ n) (hle : ∀ t ∈ s, t ≤ H),
      ∃ f : Fin (n + 1) ↪o Subgroup G, s ⊆ Set.range f ∧
        ∀ k, Nat.card (f k) = p ^ k.val ∧ f k ≤ H by
    obtain ⟨f, hf⟩ := this n ⊤ (by simpa) s hchain hcard (by simp)
    grind
  intro n H hdvd s hchain hcard hle
  classical
  have : Fact p.Prime := ⟨hp⟩
  induction n generalizing H s with
  | zero => exact ⟨.ofStrictMono ![⊥] (by simp), by simpa [card_le_one_iff_eq_bot] using hcard⟩
  | succ n ih =>
    obtain ⟨t, htcard, hst, htH⟩ : ∃ t : Subgroup G, Nat.card t = p ^ (n + 1) ∧ (∀ g ∈ s, g ≤ t)
        ∧ t ≤ H := by
      let : Fintype s := Fintype.ofFinite _
      let : LinearOrder s := hchain.linearOrder
      let left := if h : (Finset.univ : Finset s).Nonempty then (Finset.max' _ h).val else ⊥
      obtain ⟨hleft, hleftH⟩ : Nat.card left ∣ p ^ (n + 1) ∧ left ≤ H := by
        unfold left
        split_ifs with h
        · exact ⟨hcard _ (Finset.max' _ h).prop, hle _ (Finset.max' _ h).prop⟩
        · simp
      obtain ⟨t, hcardt, hlet, htle⟩ := exists_subgroup_card_pow_prime_le_le hp hleft hdvd hleftH
      refine ⟨t, hcardt, fun g hg ↦ le_trans ?_ hlet, htle⟩
      have h : (Finset.univ : Finset s).Nonempty := ⟨⟨g, hg⟩, by simp⟩
      simp only [left, h, ↓reduceDIte]
      exact (Finset.univ : Finset s).le_max' ⟨g, hg⟩ (Finset.mem_univ _)
    have hcard' (g : Subgroup G) (hg : g ∈ s \ {t}) : Nat.card g ∣ p ^ n := by
      obtain ⟨m, hmn, hm⟩ := (Nat.dvd_prime_pow hp).mp (hcard g hg.1)
      have hlt : Nat.card g < Nat.card t :=
        card_lt_of_lt <| (hst g hg.1).lt_of_ne (by simpa using hg.2)
      rw [hm, htcard, pow_lt_pow_iff_right₀ hp.one_lt, Nat.lt_add_one_iff] at hlt
      exact hm ▸ pow_dvd_pow p hlt
    obtain ⟨f', hsf', hf'⟩ := ih t (by simp [htcard, pow_add]) (s \ {t})
      (hchain.mono Set.sdiff_subset) hcard' fun g hg ↦ hst g hg.1
    let f := fun x ↦ if hx : x = Fin.last (n + 1) then t else f' (x.castPred hx)
    have hf : StrictMono f := fun x y h ↦ by
      by_cases hy : y = Fin.last (n + 1)
      · simp only [f, Fin.ne_last_of_lt h, hy, ↓reduceDIte]
        apply lt_of_le_of_ne (hf' _).2
        grind [Nat.pow_right_inj hp.one_lt]
      · simpa [f, Fin.ne_last_of_lt h, hy] using h
    refine ⟨.ofStrictMono f hf, fun g hg ↦ ?_, fun x ↦ ?_⟩
    · rw [OrderEmbedding.coe_ofStrictMono, Set.mem_range]
      by_cases hgt : g = t
      · exact ⟨Fin.last (n + 1), by simp [f, hgt]⟩
      obtain ⟨x, hx⟩ := hsf' ⟨hg, hgt⟩
      exact ⟨x.castSucc, by simp [f, hx]⟩
    · simp only [OrderEmbedding.coe_ofStrictMono, f]
      split_ifs with hx
      · simp [hx, htcard, htH]
      · simp [(hf' _).1, (hf' _).2.trans htH]
```

File: Mathlib/GroupTheory/Sylow.lean (hunk 14 above)
Comment (sharky564) [reply Mathlib/GroupTheory/Sylow.lean:726]: I also like this idea for `LTSeries`, and I don't think you need much new API. I did up a quick proof with it and it seems a bit simpler structurally, and I think it also becomes easier to use downstream. My proof isn't that amazing though, so perhaps you can find something cleaner.

File: Mathlib/GroupTheory/Sylow.lean [hunk 17]
```diff
@@ -702,6 +715,73 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+        · simp
+      obtain ⟨t, hcardt, hlet, htle⟩ := exists_subgroup_card_pow_prime_le_le hp hleft hdvd hleftH
+      refine ⟨t, hcardt, fun g hg ↦ le_trans ?_ hlet, htle⟩
+      have h : (Finset.univ : Finset s).Nonempty := ⟨⟨g, hg⟩, by simp⟩
+      simp only [left, h, ↓reduceDIte]
+      exact (Finset.univ : Finset s).le_max' ⟨g, hg⟩ (Finset.mem_univ _)
+    have hcard' (g : Subgroup G) (hg : g ∈ s \ {t}) : Nat.card g ∣ p ^ n := by
+      obtain ⟨m, hmn, hm⟩ := (Nat.dvd_prime_pow hp).mp (hcard g hg.1)
+      have hlt : Nat.card g < Nat.card t :=
+        card_lt_of_lt <| (hst g hg.1).lt_of_ne (by simpa using hg.2)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
      have hlt : Nat.card g < Nat.card t := card_lt_of_lt <| (hst g hg.1).lt_of_ne hg.2
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 18]
```diff
@@ -702,6 +715,73 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+      rw [hm, htcard, pow_lt_pow_iff_right₀ hp.one_lt, Nat.lt_add_one_iff] at hlt
+      exact hm ▸ pow_dvd_pow p hlt
+    obtain ⟨f', hsf', hf'⟩ := ih t (by simp [htcard, pow_add]) (s \ {t})
+      (hchain.mono Set.sdiff_subset) hcard' fun g hg ↦ hst g hg.1
+    let f := fun x ↦ if hx : x = Fin.last (n + 1) then t else f' (x.castPred hx)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: We have `Fin.Embedding.cons` which might already help things, but is it worth adding `Fin.OrderEmbedding.cons`?

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: Or actually, maybe `Fin.Embedding.snoc` is what you want here?

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: > snoc

😭 What is this function name. I search for every name I could think of for "add a element to the tail" but couldn't find it. Thanks for the pointer

Comment (wwylele) [reply Mathlib/GroupTheory/Sylow.lean]: I inlined `Fin.snoc` for now. Going to take another look later for extracting a `Fin.OrderEmbedding.snoc`. I also noticed there is [RelSeries.snoc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/RelSeries.html#RelSeries.snoc), so this can be an argument for using `LTSeries`

File: Mathlib/GroupTheory/Sylow.lean [hunk 19]
```diff
@@ -702,6 +715,71 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+      obtain ⟨hleft, hleftH⟩ : Nat.card left ∣ p ^ (n + 1) ∧ left ≤ H := by
+        unfold left
+        split_ifs with h
+        · exact ⟨hcard _ (Finset.max' _ h).prop, hle _ (Finset.max' _ h).prop⟩
+        · simp
+      obtain ⟨t, hcardt, hlet, htle⟩ := exists_subgroup_card_pow_prime_le_le hp hleft hdvd hleftH
+      refine ⟨t, hcardt, fun g hg ↦ le_trans ?_ hlet, htle⟩
+      have h : (Finset.univ : Finset s).Nonempty := ⟨⟨g, hg⟩, by simp⟩
+      simp only [left, h, ↓reduceDIte]
+      exact (Finset.univ : Finset s).le_max' ⟨g, hg⟩ (Finset.mem_univ _)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
    have h : ∃ t ≤ H, Nat.card t ∣ p ^ (n + 1) ∧ ∀ g ∈ s, g ≤ t := by
      let : LinearOrder s := hchain.linearOrder
      by_cases! h : Nonempty s
      · obtain ⟨⟨t, hts⟩, ht⟩ := Finite.exists_max (fun x : s ↦ x)
        exact ⟨t, hle t hts, hcard t hts, fun g hg ↦ ht ⟨g, hg⟩⟩
      · exact ⟨⊥, by simp [s.eq_empty_of_isEmpty]⟩
    obtain ⟨t, htH, htcard, hst⟩ : ∃ t ≤ H, Nat.card t = p ^ (n + 1) ∧ ∀ g ∈ s, g ≤ t := by
      obtain ⟨t, htH, htcard, hst⟩ := h
      obtain ⟨t, hcardt, hlet, htle⟩ := exists_subgroup_card_pow_prime_le_le hp htcard hdvd htH
      exact ⟨t, htle, hcardt, fun g hg ↦ (hst g hg).trans hlet⟩
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 20]
```diff
@@ -702,6 +717,66 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+      (hchain : IsChain (· ≤ ·) s) (hcard : ∀ t ∈ s, Nat.card t ∣ p ^ n) (hle : ∀ t ∈ s, t ≤ H),
+      ∃ f : Fin (n + 1) ↪o Subgroup G, s ⊆ Set.range f ∧
+        ∀ k, Nat.card (f k) = p ^ k.val ∧ f k ≤ H by
+    obtain ⟨f, hf⟩ := this n ⊤ (by simpa) s hchain hcard (by simp)
+    grind
+  intro n H hdvd s hchain hcard hle
+  classical
+  have : Fact p.Prime := ⟨hp⟩
+  induction n generalizing H s with
+  | zero => exact ⟨.ofStrictMono ![⊥] (by simp), by simpa [card_le_one_iff_eq_bot] using hcard⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
  | zero => exact ⟨.ofStrictMono ![⊥] (by simp), by simpa using hcard⟩
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 21]
```diff
@@ -702,6 +717,66 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+      rw [hm, htcard, pow_lt_pow_iff_right₀ hp.one_lt, Nat.lt_add_one_iff] at hlt
+      exact hm ▸ pow_dvd_pow p hlt
+    obtain ⟨f', hsf', hf'⟩ := ih t (by simp [htcard, pow_add]) (s \ {t})
+      (hchain.mono Set.sdiff_subset) hcard' fun g hg ↦ hst g hg.1
+    have hf : StrictMono (Fin.snoc f' t) := fun x y h ↦ by
+      obtain ⟨x, rfl⟩ := Fin.exists_castSucc_eq.mpr (Fin.ne_last_of_lt h)
+      rcases y.eq_castSucc_or_eq_last with ⟨y, rfl⟩ | rfl
+      · simpa using h
+      · simp only [Fin.snoc_castSucc, Fin.snoc_last, ]
+        apply lt_of_le_of_ne (hf' _).2
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: Minor stylistic:
```suggestion
      · simpa
      · rw [Fin.snoc_castSucc, Fin.snoc_last]
        apply lt_of_le_of_ne (hf' x).2
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 22]
```diff
@@ -702,6 +717,66 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+        grind [Nat.pow_right_inj hp.one_lt]
+    refine ⟨.ofStrictMono (Fin.snoc f' t) hf, fun g hg ↦ ?_, fun x ↦ ?_⟩
+    · rw [OrderEmbedding.coe_ofStrictMono, Set.mem_range]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: Would a `Fin.range_snoc` lemma be helpful here?

File: Mathlib/GroupTheory/Sylow.lean (hunk 18 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: Yeah, might still be worth playing around with whether `RelSeries.snoc` and `RelSeries.toFun` can give you what you want here.

**Comment by wwylele** [comment]
On `LTSeries`: one main issue I bump into is dependent type problem. `LTSeries` bundles `length` in itself, and when used as a function, the signature is `Fin (self.length + 1) → α`. Meanwhile, I am inducting on `self.length = n`, so I would like to substitute `n = 0`, `n = n' + 1` and so on into this `Fin` type, but of course `simp` / `rw` refuses to do it because I am supposed to use finCongr instead of rewriting types, and that makes the code longer than I like. 

---

Edit: I mean I often end up with types like `Fin ((LTSeries.mk 0 ![⊥] ⋯).length + 1)` which `simp` and `rw` refuses to rewrite

File: Mathlib/GroupTheory/Sylow.lean [hunk 23]
```diff
@@ -702,6 +717,64 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
     (by rw [card_bot, pow_zero]) n.zero_le
   ⟨K, hK.1⟩
 
+/-- A corollary of **Sylow's first theorem**. If `p ^ n` divides the order of `G`, then any chain
+of subgroups whose orders divide `p ^ n` can be completed to a tower of subgroups of orders
+`p ^ 0, …, p ^ n`. -/
+theorem exists_orderEmbedding_of_isChain [Finite G] {p n : ℕ} (hp : p.Prime)
+    (hdvd : p ^ n ∣ Nat.card G) {s : Set (Subgroup G)} (hchain : IsChain (· ≤ ·) s)
+    (hcard : ∀ g ∈ s, Nat.card g ∣ p ^ n) :
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Sylow.lean]: `g` usually represents a group element, could you do `H`/`K`/`N`/`P` instead?
```suggestion
    (hcard : ∀ H ∈ s, Nat.card H ∣ p ^ n) :
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 24]
```diff
@@ -702,6 +717,64 @@ theorem exists_subgroup_card_pow_prime [Finite G] (p : ℕ) {n : ℕ} [Fact p.Pr
...
+      obtain ⟨x, rfl⟩ := Fin.exists_castSucc_eq.mpr (Fin.ne_last_of_lt h)
+      rcases y.eq_castSucc_or_eq_last with ⟨y, rfl⟩ | rfl
+      · simpa
+      · rw [Fin.snoc_castSucc, Fin.snoc_last]
+        apply lt_of_le_of_ne (hf' x).2
+        grind [Nat.pow_right_inj hp.one_lt]
+    refine ⟨.ofStrictMono (Fin.snoc f' T) hf, fun K hK ↦ ?_, fun x ↦ ?_⟩
+    · rw [Set.sdiff_subset_iff, Set.singleton_union] at hsf'
+      rw [OrderEmbedding.coe_ofStrictMono, Fin.range_snoc]
+      exact hsf' hK
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
    · rw [OrderEmbedding.coe_ofStrictMono, Fin.range_snoc]
      exact Set.sdiff_singleton_subset_iff.mp hsf' hK
```

**Review by tb65536 — APPROVED** [review]

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
